US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine (850 mg, 1.27 mmol) (obtained as described in Reference Example 57(4)) in anhydrous tetrahydrofuran (43 ml) were added successively acetic acid (87 μl, 1.52 mmol) and a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (1.52 ml, 1.52 mmol) in an ice bath. The mixture was stirred in the ice bath for 30 minutes. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and water. The obtained organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. To the residue were added ethyl acetate and diisopropyl ether, and the resulting mixture was filtered off and washed with diisopropyl ether to give 3-hydroxy-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine (486 mg, yield 88%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine | 1.27 mmol, 850 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)N1CC(C1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C34H37N5O6SSi
reactant | acetic acid | 1.52 mmol, 87 μl | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 43 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.52 mmol, 1.52 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-{4-[3-(p-nitrobenzyloxycarbonylamino)-azetidine-1-carbonyl]-1,3-thiazol-2-yl}azetidine | 486 mg, yield 88% | OC1CN(C1)C=1SC=C(N1)C(=O)N1CC(C1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H19N5O6S
